US05604178
(1) Synthesis of N-(2-chlorocarbonyl-1H-pyrrol-1-yl)phthalimide (IX-61)
A suspension of anhydrous aluminium chloride (3.1 g; 4.7×5 mM) in 20 ml of 1,2-dichloroethane was cooled with ice to 0°-5° C., and oxalyl chloride (3 g; 4.7×5 mM) was added dropwise to the suspension. After stirred at 0°-5° C. for 20 minutes, a suspension of N-(1H-pyrrol-1-yl)phthalimide (IX-I; 1.0 g; 4.7 mM) in 1,2-dichloroethane was added thereto. Thereafter, the mixture was stirred for 50 minutes with slowly raising the temperature to room temperature. The reaction mixture was poured into ice water and insoluble materials was removed by filteration. To the filtrate was added ethyl acetate with thoroughly stirring to separate an organic phase. The organic phase was dried with sodium sulfate, and the solvent was then removed by distillation to obtain the compound (IX-61)

reactant | aluminium chloride | 5 mM, 3.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | oxalyl chloride | 5 mM, 3 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-(1H-pyrrol-1-yl)phthalimide | 4.7 mM, 1.0 g | N1(C=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C12H8N2O2
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | N-(2-chlorocarbonyl-1H-pyrrol-1-yl)phthalimide | ClC(=O)C=1N(C=CC1)N1C(C=2C(C1=O)=CC=CC2)=O | C13H7ClN2O3
